US04517188
(IIC) 5-Bromo-2-chloro-4-(oxiranylmethyoxy)pyrimidine
A solution of glycidol (13.0 g, 0.175 mole) and 5-bromo-2,3-dichloropyrimidine (40.0 g, 0.175 mole) in dimethylformamide (350 mL) was added dropwise to a stirring nitrogen-flushed, chilled suspension of sodium hydride (from 10.1 g, 0.21 mole, of NaH washed free of mineral oil) in dimethylformamide (350 mL). Following the addition, the reaction mixture was poured into 1:1 brine-water (4.5 l) and extracted with ethyl acetate (5×750 mL). Combined extracts were washed with water and brine, dried (MgSO4) and concentrated in vacuo to give 44.7 g of an oil which solidified. Trituration of the crude product in isopropyl alcohol-isopropyl ether gave 21.9 g (47%) of product, m.p. 63°-73°.

reactant | glycidol | 0.175 mole, 13.0 g | C1C(O1)CO | C3H6O2
reactant | 5-bromo-2,3-dichloropyrimidine | 0.175 mole, 40.0 g | BrC1=CN(C(N=C1)Cl)Cl | C4H3BrCl2N2
reactant | sodium hydride | 0.21 mole, 10.1 g | [H-].[Na+]
reactant | brine water | 4.5 l | [Cl-].[Na+].O.O
solvent | dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-2-chloro-4-(oxiranylmethyoxy)pyrimidine | 44.7 g | BrC=1C(=NC(=NC1)Cl)OCC1OC1 | C7H6BrClN2O2
